US08278302B2
Step 1: 1-Cyclohexyl-3-(3-nitro-benzyl)-urea
3-Nitro-benzyl-amine (5 g) was suspended in THF (130 ml) and cyclohexyl isocyanate (7 ml) was added dropwise at 25° C. After stirring for 2 h the resulting precipitate was filtered off, washed with diethyl ether and treated with 5% aqueous NH4OH. After filtering and drying the title compound was isolated (4.5 g, FP 168-169° C.)

reactant | 3-Nitro-benzyl-amine | 5 g | [N+](=O)([O-])C=1C=C(CN)C=CC1 | C7H8N2O2
reactant | cyclohexyl isocyanate | 7 ml | C1(CCCCC1)N=C=O | C7H11NO
solvent | THF | 130 ml | C1CCOC1 | C4H8O
product | 1-Cyclohexyl-3-(3-nitro-benzyl)-urea | C1(CCCCC1)NC(=O)NCC1=CC(=CC=C1)[N+](=O)[O-] | C14H19N3O3
